US08877752B2
4-butyl-3-(2-phenoxyethoxy)aniline (12):
N-(4-Butyl-3-(2-phenoxyethoxy)phenyl)acetamide (132 g, 0.41 mol) was dissolved in ethanol (897 mL) and water (104 mL). KOH (312 g, 5.57 mol) was added at 0° C. and the solution was allowed to reflux for 18 hrs. Upon completion the reaction was cooled to room temperature and diluted with 2 L of water and 2 L of DCM. The organic layer was washed with water (×2) and dried over sodium sulfate. The crude compound was purified further via flash chromatography with hexane:ethyl acetate (1:1) to obtain the title compound in 80% yield (92 g) as a pink solid.

reactant | N-(4-Butyl-3-(2-phenoxyethoxy)phenyl)acetamide | 0.41 mol, 132 g | C(CCC)C1=C(C=C(C=C1)NC(C)=O)OCCOC1=CC=CC=C1 | C20H25NO3
reactant | KOH | 5.57 mol, 312 g | [OH-].[K+]
solvent | ethanol | 897 mL | C(C)O | C2H6O
solvent | water | 104 mL | O | H2O
solvent | water | 2 L | O | H2O
solvent | DCM | 2 L | C(Cl)Cl | CH2Cl2
product | 4-butyl-3-(2-phenoxyethoxy)aniline | 80% yield | C(CCC)C1=C(C=C(N)C=C1)OCCOC1=CC=CC=C1 | C18H23NO2
